US09169215B2
A light yellow solution of 3-(cyclopentylamino)-2-(4-fluoro-2-methoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile (130 mg, 0.383 mmol) in DMSO (5 mL) was kept at RT in a 10 mL vial. The resulting light yellow solution was stored for 60 days. Then, the crude compound in DMSO was purified by using an HPLC column chromatography using acetonitrile and ammonium acetate as eluent. The desired peak was collected and the solvent was removed under vacuum to obtain 48 mg (35% yield) of (E)-5-Amino-1-(1-(cyclopentylimino)-2-(4-fluoro-2-methoxyphenyl)-2-oxoethyl)-1H-pyrazole-4-carbonitrile as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.40-1.62 (br m, 4H), 1.62-1.78 (br, 4H), 3.67 (p, 1H), 3.70 (s, 3H), 7.01 (dt, 1H), 7.13 (dd, 1H), 7.66 (s, 1H), 7.99 (dd, 1H), 8.06 (brvs, 2H). LC/MS calcd. for C18H18FN5O2 (m/e) 355.371, obsd. 355.9 (M+H, ES+).

reactant | 3-(cyclopentylamino)-2-(4-fluoro-2-methoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 0.383 mmol, 130 mg | C1(CCCC1)NC1=C(NC=2N1N=CC2C#N)C2=C(C=C(C=C2)F)OC | C18H18FN5O
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
product | (E)-5-Amino-1-(1-(cyclopentylimino)-2-(4-fluoro-2-methoxyphenyl)-2-oxoethyl)-1H-pyrazole-4-carbonitrile | 48 mg, 35% yield | NC1=C(C=NN1/C(/C(=O)C1=C(C=C(C=C1)F)OC)=N/C1CCCC1)C#N | C18H18FN5O2
